US06479487B1
Scheme C, step a: 1-(4-Chlorobenzyl)-4-piperidone
Dissolve 4-piperidone (17 mmol) in 3-pentanone (25 mL) and heat to reflux. Add cesium carbonate (19 mmol) and a catalytic amount of potassium iodide, followed by 4-chlorobenzyl chloride (20 mmol). Stir and reflux for 4 hours. Filter the hot suspension, wash the residue with hot acetone (4×20 mL), combine the filtrate and washings, and evaporate the solvent in vacuo to give the title compound.

reactant | 4-piperidone | 17 mmol | N1CCC(CC1)=O | C5H9NO
reactant | cesium carbonate | 19 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
reactant | 4-chlorobenzyl chloride | 20 mmol | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | 3-pentanone | 25 mL | CCC(CC)=O | C5H10O
product | 1-(4-Chlorobenzyl)-4-piperidone | ClC1=CC=C(CN2CCC(CC2)=O)C=C1 | C12H14ClNO
